US09120749B2
2,6-Dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol
Following general procedure E, 4-bromo-2,6-dichlorophenol (290 mg, 1.20 mmol) was reacted with bis(pinacolato)diboron (305 mg, 1.20 mmol) to afford the desired product (298 mg, 86%): ESI MS m/z 289 [C12H15BCl2O3+H]+.

reactant | 4-bromo-2,6-dichlorophenol | 1.20 mmol, 290 mg | BrC1=CC(=C(C(=C1)Cl)O)Cl | C6H3BrCl2O
reactant | bis(pinacolato)diboron | 1.20 mmol, 305 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 2,6-Dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 298 mg, 86% | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
